US05102897
5-[2-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-sulfinyl]ethyl]-1,3,4-oxadiazol-2(3H)-one
m-Chloroperbenzoic acid (1.30 g, 6.0 mmol) is added in eight portions at 5-minute intervals to a 0° C. solution of 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide (2.25 g, 6.4 mmol) in dichloromethane (64 mL). The reaction mixture is stirred at 0° C. for 2.25 hours, then diluted with ethyl acetate and washed three times with a saturated solution of sodium bicarbonate, then with water and brine. Drying the organic phase over magnesium sulfate and evaporation gives a crude product which is chromatographed on a column of silica with ethyl acetate/hexane (3/1) to afford 1.92 g of a glassy solid.

reactant | m-Chloroperbenzoic acid | 6.0 mmol, 1.30 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 3-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]thio]propanoic acid hydrazide | 6.4 mmol, 2.25 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SCCC(=O)NN | C17H28N2O2S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 64 mL | ClCCl | CH2Cl2
product | 5-[2-[[3,5-Bis(1,1-dimethylethyl)-4-hydroxyphenyl]-sulfinyl]ethyl]-1,3,4-oxadiazol-2(3H)-one | 1.92 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)S(=O)CCC1=NNC(O1)=O | C18H26N2O4S
